US09326516B2
Preparation of 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C3)
Prepared according to the procedure reported in (WO 2011017513) for 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole from 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline and isolated as a white solid (10.6 g, 94%): 1H NMR (300 MHz, CDCl3) δ 8.07 (s, 1H), 7.73-7.41 (m, 2H), 7.41-7.05 (m, 4H), 6.92-6.63 (m, 2H); ESIMS m/z 347 ([M+H]+).

reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
reactant | 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)(F)F | C15H11F3N4
product | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 10.6 g, 94% | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
